US08491929B2
The in vitro dissolution profile of levodopa-carbidopa extended release capsules (from Example 3E), containing 200 mg levodopa and 50 mg carbidopa was obtained under simulated gastric conditions. The dissolution tests were performed in 900 mL of a 0.1 N HCl-pH 1.2 solution in a USP II apparatus at a temperature of 37° C. The paddle speed was set at 50 rpm. Samples of dissolution media were collected at predetermined intervals and analyzed by HPLC. The dissolution profiles of levodopa and carbidopa obtained from HPLC analysis are shown in FIG. 13.

reactant | levodopa | 200 mg | C1=CC(=C(C=C1C[C@@H](C(=O)O)N)O)O | C9H11NO4
reactant | levodopa carbidopa | C1=CC(=C(C=C1C[C@@H](C(=O)O)N)O)O.C[C@](CC=1C=CC(=C(C1)O)O)(C(=O)O)NN
product | carbidopa | 50 mg | C[C@](CC=1C=CC(=C(C1)O)O)(C(=O)O)NN | C10H14N2O4
